// ============================================================================
// SPICE Models.
// ============================================================================
// Linear Voltage-Controlled Current Sources
G1 2 0 5 0 0.1MMHO

// Linear Voltage-Controlled Voltage Sources
E1 2 3 14 1 2.0

// Linear Current-Controlled Current Sources
F1 13 5 VSENS 5

// Linear Current-Controlled Voltage Sources
HX 5 17 VZ 0.5K

// Non-linear Dependent Sources
B1 0 1 I=cos(v(1))+sin(v(2))
B1 0 1 V=ln(cos(log(v(1,2)^2)))-v(3)^4+v(2)^v(1)
B1 3 4 I=17
B1 3 4 V=exp(pi^i(vdd))
